US04801593
Preparation of 3-phenyl-1,2,3,4-tetrahydroisoquinoline
1-Chloro-3-phenylisoquinoline (2.8 g) was dissolved in absolute alcohol (200 ml) and the solution was heated at reflux while sodium metal (2.4 g) was added in portions. It was maintained at reflux for a further 2 hr., when tlc indicated incomplete reaction. Further sodium metal (2.4 g) was added then, and again (2.4 g)after another 6 hr., the heating being continued for 12 hr. in tote. The ethanol was evaporated in vacuo to give an oil which was partitioned between ether and 2M hydrochloric acid. The aqueous layer was separated, basified with 2M sodium hydroxide solution and extracted with ether (2×150 ml). The ether layer was dried (magnesium sulphate) and evaporated in vacuo to give an oil (2.6 g). This was purified by column chromatography on silica gel and 3-phenyl-1,2,3,4-tetrahydroisoquinoline was eluted with dichloromethane/methanol characterised by its nmr spectrum.

reactant | 1-Chloro-3-phenylisoquinoline | 2.8 g | ClC1=NC(=CC2=CC=CC=C12)C1=CC=CC=C1 | C15H10ClN
reactant | sodium | 2.4 g | [Na] | Na
reactant | sodium | 2.4 g | [Na] | Na
product | 3-phenyl-1,2,3,4-tetrahydroisoquinoline | 2.6 g | C1(=CC=CC=C1)C1NCC2=CC=CC=C2C1 | C15H15N
